US05859030
a) 2,3-Dimethyl-4-(3-hydroxypropylthio)pyridine-N-oxide
6 g (60%) NaH are added in portions to 50 ml of dry N-methylpyrrolidone (NMP), the mixture is stirred for 15 min, 9.5 g (0.11 mol) of 3-hydroxypropylmercaptan are metered in in the course of 20 min and the mixture is stirred again for 30 min until the evolution of gas has ended. A solution of 14.4 g (0.1 mol) of 4-chloro-2,3-dimethylpyridine-N-oxide in 100 ml of NMP is then added dropwise in the course of 20 min, and the reaction mixture is stirred for 1 h at room tempera- ture, then for 1 h at 70° C. and after this additionally for 1 h at 100° C.

reactant | NaH | 6 g | [H-].[Na+]
reactant | 3-hydroxypropylmercaptan | 0.11 mol, 9.5 g | OCCCS | C3H8OS
reactant | 4-chloro-2,3-dimethylpyridine-N-oxide | 0.1 mol, 14.4 g | ClC1=C(C(=[N+](C=C1)[O-])C)C | C7H8ClNO
solvent | NMP | 100 ml | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2,3-Dimethyl-4-(3-hydroxypropylthio)pyridine-N-oxide | CC1=[N+](C=CC(=C1C)SCCCO)[O-] | C10H15NO2S
